US05496843
2) 4-Chloro-2-(3-oxopropyl)toluene
To a suspension of 2-amino-4-chlorotoluene (1.41 g, 10 mmol) in 24% aq. HCl (5 mL) Was added dropwise NaNO2 (710 mg, 1.03 mmol) in H2O (3 mL) over 30 min at 0° C. The resulting solution was added dropwise to a solution of acrolein (1 mL, 15 mmol) in a mixture of DMF (15 mL) and 20% aq. TiCl3 (20 mL, 26 mmol). After the addition was completed, the mixture was stirred for 30 min at room temperature and extracted with diethyl ether. The extracts was dried over MgSO4 and concentrated. The residue was purified by silica gel column chromatography with 5:1 hexane/AcOEt to give 1.11 g of the title compound (60%): 1H NMR (CDCl3) δ9.83 (s, 1H), 7.06~7.12 (m, 3H), 2.90 (t, 2H, J=7.2 Hz), 2.74 (t, 2H, J=7.2 Hz), 2.27 (s, 3H).

reactant | 2-amino-4-chlorotoluene | 10 mmol, 1.41 g | NC1=C(C=CC(=C1)Cl)C | C7H8ClN
reactant | NaNO2 | 1.03 mmol, 710 mg | N(=O)[O-].[Na+]
reactant | acrolein | 15 mmol, 1 mL | C(=O)C=C | C3H4O
solvent | HCl | 5 mL | Cl | ClH
solvent | H2O | 3 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-2-(3-oxopropyl)toluene | 1.11 g, 60% | ClC1=CC(=C(C=C1)C)CCC=O | C10H11ClO
